US04086278
A mixture of 1,1-di(ethylthio)-heptane (54.5 g., 10.25 mole) and 10 drops of 89% phosphoric acid is heated in a Claisen flask at a pressure of 200-250 mm. Care is taken that the vapor temperature does not exceed 165°. The receiver is cooled with water so that ethanethiol does not condense. The distillate is diluted with ether and washed with 2 N sodium hydroxide and water and dried. Distillation (87°-90°/12 mm.) afforded 1-ethylthio-1-heptene (30 g., 78%), nD20 1.4760.

reactant | 1,1-di(ethylthio)-heptane | 10.25 mole, 54.5 g | C(C)SC(CCCCCC)SCC | C11H24S2
reactant | water | O | H2O
reactant | ethanethiol | C(C)S | C2H6S
catalyst | phosphoric acid | 10 drops | P(O)(O)(O)=O | H3O4P
solvent | ether | CCOCC | C4H10O
product | 1-ethylthio-1-heptene | 30 g, 78% | C(C)SC=CCCCCC | C9H18S
